US05888422
2-(4-Decyloxyphenyl)-9,9,10,10-tetrafluoro-7-butyl-9,10-dihydrophenanthrene
From 9,9,10,10-tetrafluoro-2-bromo-7-butyldihydrophenanthrene and 4-decyloxyphenylboronic acid by means of palladium-catalyzed Suzuki coupling (in analogy to Acc. Chem. Res. 1982, 15, 178). The crude product is purified by column chromatography.

reactant | 9,9,10,10-tetrafluoro-2-bromo-7-butyldihydrophenanthrene | FC1(C2=CC(=CC=C2C=2C=CC(CC2C1(F)F)Br)CCCC)F | C18H17BrF4
reactant | 4-decyloxyphenylboronic acid | C(CCCCCCCCC)OC1=CC=C(C=C1)B(O)O | C16H27BO3
catalyst | palladium | [Pd] | Pd
product | 2-(4-Decyloxyphenyl)-9,9,10,10-tetrafluoro-7-butyl-9,10-dihydrophenanthrene | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=2C(C(C3=CC(=CC=C3C2C=C1)CCCC)(F)F)(F)F | C34H40F4O
